US04379156
By following the procedure of the first part of Example 1, but using m-nitrobenzoyl chloride (27.8 g), 2-amino-5-nitrothiazole (21.8 g) and pyridine (100 ml), there was obtained 3-nitro-N-(5-nitro-2-thiazolyl)benzamide, m.pt 200°-201°, after recrystallisation from acetic acid.

reactant | m-nitrobenzoyl chloride | 27.8 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | 2-amino-5-nitrothiazole | 21.8 g | NC=1SC(=CN1)[N+](=O)[O-] | C3H3N3O2S
solvent | pyridine | 100 ml | N1=CC=CC=C1 | C5H5N
product | 3-nitro-N-(5-nitro-2-thiazolyl)benzamide | [N+](=O)([O-])C=1C=C(C(=O)NC=2SC(=CN2)[N+](=O)[O-])C=CC1 | C10H6N4O5S
